US08461181B2
(2) Benzoic Acid Herbicidal Compounds
2,3,6-TBA, dicamba, clopyralid, picloram, aminopyralid, quinclorac, and quinmerac.

reactant | 2,3,6-TBA | C1=CC(=C(C(=C1Cl)C(=O)O)Cl)Cl | C7H3Cl3O2
reactant | dicamba | COC=1C(=CC=C(C1C(=O)O)Cl)Cl | C8H6Cl2O3
reactant | clopyralid | C1=CC(=NC(=C1Cl)C(=O)O)Cl | C6H3Cl2NO2
reactant | picloram | C1(=C(C(=NC(=C1Cl)Cl)C(=O)O)Cl)N | C6H3Cl3N2O2
reactant | aminopyralid | C1=C(C(=C(N=C1Cl)C(=O)O)Cl)N | C6H4Cl2N2O2
reactant | quinclorac | C=1C=C(C(=C2C1C=C(C=N2)Cl)C(=O)O)Cl | C10H5Cl2NO2
reactant | quinmerac | CC1=CC=2C=CC(=C(C2N=C1)C(=O)O)Cl | C11H8ClNO2
product | Benzoic Acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
